US08106221B2
3-(3-chlorophenylamino)propanenitrile (2 g, 0.011 mol) was dissolved in anhydrous THF (20 mL) and heated to reflux under nitrogen. A solution of BH3.MeS in THF was added drop wise and stirred at reflux overnight. The resulting solution was cooled to room temperature. Methanol was added drop wise to quench the reaction. After evaporation of the solution, the crude product was purified by column chromatography to afford the pure product N1-(3-chlorophenyl)propane-1,3-diamine (1.89 g, yield 95%)

reactant | 3-(3-chlorophenylamino)propanenitrile | 0.011 mol, 2 g | ClC=1C=C(C=CC1)NCCC#N | C9H9ClN2
reactant | Methanol | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N1-(3-chlorophenyl)propane-1,3-diamine | 1.89 g, yield 95% | ClC=1C=C(C=CC1)NCCCN | C9H13ClN2
